US06562811B1
To a suspension of tert-butyl 3-[2-amino-3-formyl-6-(2-hydroxyphenyl)4-pyridinyl]-1-piperidinecarboxylate (0.86 g, 2.16 mmol) in ethanol (25 mL) were added diethyl malonate (6.93 g, 43.27 mmol) and piperidine (2.14 mL, 21.64 mmol) and, and the mixture was heated at reflux overnight. The mixture was allowed to cool to room temperature, and then diluted with ethanol. The resulting precipitate was collected by filtration, washed with ethanol and dried under reduced pressure to give ethyl 5-[1-(tert-butoxycarbonyl)-3-piperidinyl]-7-(2-hydroxyphenyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate as a yellow solid (0.752 g, yield; 71%).

reactant | tert-butyl 3-[2-amino-3-formyl-6-(2-hydroxyphenyl)4-pyridinyl]-1-piperidinecarboxylate | 2.16 mmol, 0.86 g | NC1=NC(=CC(=C1C=O)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)O | C22H27N3O4
reactant | diethyl malonate | 43.27 mmol, 6.93 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 21.64 mmol, 2.14 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | ethyl 5-[1-(tert-butoxycarbonyl)-3-piperidinyl]-7-(2-hydroxyphenyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 0.752 g, yield; 71% | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=C2C=C(C(NC2=NC(=C1)C1=C(C=CC=C1)O)=O)C(=O)OCC | C27H31N3O6
